US07435837B2
Treatment of (±)-1-(7-thien-3-yl-2,3-dihydro-1-benzofuran-2-yl)methanamine (0.56 g, 2.09 mmol) with diisopropylethylamine (0.406 g, 3.14 mmol) and benzyl chloroformate (0.393 g, 2.30 mmol) generally according to the procedure described for Intermediate 12 provided 0.54 g (71%) of (±)-benzyl(7-thien-3-yl-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate as a colorless oil. Rf=0.49 (silica, ethyl acetate:hexanes 2:8); Anal. calcd. for C21H19NO3S.0.3H2O: C, 68.01; H, 5.33; N, 3.78. Found: C, 67.88; H, 5.18; N, 3.72. Chiral HPLC separation of (±)-benzyl(7-thien-3-yl-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate (Chiralcel AD, water:methanol 1:9) provided two fractions. Fraction 1 (Rt=13.00 min, (Chiralcel AD, water:methanol 1:9); Fraction 2 (Rt=14.1 min, (Chiralcel AD, water:methanol 1:9).

reactant | (±)-1-(7-thien-3-yl-2,3-dihydro-1-benzofuran-2-yl)methanamine | 2.09 mmol, 0.56 g | S1C=C(C=C1)C1=CC=CC=2CC(OC21)CN | C13H13NOS
reactant | diisopropylethylamine | 3.14 mmol, 0.406 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 2.30 mmol, 0.393 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl(7-thien-3-yl-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate | 0.54 g, 71% | C(C1=CC=CC=C1)OC(NCC1OC2=C(C1)C=CC=C2C2=CSC=C2)=O | C21H19NO3S
